US09447086B2
(S)-4-[(R)-6-(2-Bromo-4-fluoro-phenyl)-5-ethoxycarbonyl-2-(5-methyl-oxazol-4-yl)-3,6-dihydro-pyrimidin-4-ylmethyl]-morpholine-3-carboxylic acid
The title compound was prepared in analogy to Example 1 with Procedure A shown in Scheme 4 by using 2-bromo-4-fluorobenzaldehyde, 5-methyl-oxazole-4-carboxamidine (Compound AB), ethyl acetoacetate and (S)-morpholine-3-carboxylic acid instead of 2-chloro-4-fluorobenzaldehyde, thiazole-2-carboxamidine, methyl acetoacetate and (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid. The stereochemistry of Example 69 was determined by comparing its 1H NMR data and HPLC retention time with Example 2.

reactant | 2-bromo-4-fluorobenzaldehyde | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | 5-methyl-oxazole-4-carboxamidine | CC1=C(N=CO1)C(=N)N | C5H7N3O
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | (S)-morpholine-3-carboxylic acid | N1[C@@H](COCC1)C(=O)O | C5H9NO3
reactant | thiazole-2-carboxamidine | S1C(=NC=C1)C(=N)N | C4H5N3S
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid | FC1(C[C@H](NC1)C(=O)O)F | C5H7F2NO2
product | (S)-4-[(R)-6-(2-Bromo-4-fluoro-phenyl)-5-ethoxycarbonyl-2-(5-methyl-oxazol-4-yl)-3,6-dihydro-pyrimidin-4-ylmethyl]-morpholine-3-carboxylic acid | BrC1=C(C=CC(=C1)F)[C@H]1C(=C(NC(=N1)C=1N=COC1C)CN1[C@@H](COCC1)C(=O)O)C(=O)OCC | C23H24BrFN4O6
